US04994569
Working in a manner similar to that described in Example 12, but starting with (5RS, 6SR)-6-phenyl-2-(2-thienyl)-5,6-dihydro-4H-1,3-oxazin-5-ol (1.55 g) and phenyl isocyanate (0.8 g), and after recrystallization in isopropanol, (5RS, 6SR)-6-phenyl-5-phenylcarbamoyloxy-2-(2-thienyl)-5,6-dihydro-4H-1,3-oxazine (1.75 g), m.p. 98° C., is obtained.

reactant | (5RS, 6SR)-6-phenyl-2-(2-thienyl)-5,6-dihydro-4H-1,3-oxazin-5-ol | 1.55 g | C1(=CC=CC=C1)C1C(CN=C(O1)C=1SC=CC1)O | C14H13NO2S
reactant | phenyl isocyanate | 0.8 g | C1(=CC=CC=C1)N=C=O | C7H5NO
product | (5RS, 6SR)-6-phenyl-5-phenylcarbamoyloxy-2-(2-thienyl)-5,6-dihydro-4H-1,3-oxazine | 1.75 g | C1(=CC=CC=C1)C1C(CN=C(O1)C=1SC=CC1)OC(NC1=CC=CC=C1)=O | C21H18N2O3S
